US07960419B2
Add hydrogen peroxide (30% in water, 8.73 g, 257 mmol) to 3-amino-3-(3-fluoro-4-methoxyphenyl)-thioacrylamide (29.0 g, 128 mmol) in methanol (1,283 mL) and stir the reaction mixture at room temperature. Quench the reaction with Na2S2O3 (20% in water) and concentrate to dryness. Dilute with EtOAc (900 mL) and water (900 mL), collect the organic phase, and evaporate. Crystallize from EtOAc/hexanes to afford 3-(3-fluoro-4-methoxyphenyl)isothiazol-5-ylamine (1 g). Chromatography of the mother liquor (25 g) over silica gel, eluting with 25-50% EtOAc in hexane, affords additional product. [In one instance, a column loading accident led to loss of ½ of the material; but additional clean material was recovered from the chromatography (1 g).] Yield: 12.2%. ES-MS: m/e 225.0 (m+1).

reactant | hydrogen peroxide | 257 mmol, 8.73 g | OO | H2O2
reactant | 3-amino-3-(3-fluoro-4-methoxyphenyl)-thioacrylamide | 128 mmol, 29.0 g | NC(=CC(=S)N)C1=CC(=C(C=C1)OC)F | C10H11FN2OS
solvent | methanol | 1,283 mL | CO | CH4O
product | 3-(3-fluoro-4-methoxyphenyl)isothiazol-5-ylamine | 1 g, Yield: 12.2% | FC=1C=C(C=CC1OC)C1=NSC(=C1)N | C10H9FN2OS
